2177-01-05 08:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2177-1-4**] 10:00 PM
 ARTERIAL LINE - START [**2177-1-5**] 12:44 AM
 WOUND CULTURE - At [**2177-1-5**] 04:00 AM
 BLOOD CULTURED - At [**2177-1-5**] 05:26 AM
   from A-line
   Evaluated by surgery, who felt that wound had no evidence of fluctuance
   or area that needed further I&D; did recommend imaging to check for gas
   Vent changed to CPAP, doing well
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2177-1-5**] 04:00 AM
   Infusions:
   Insulin - Regular - 14 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-1-5**] 08:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.3
C (99.2
   HR: 121 (112 - 140) bpm
   BP: 132/95(106){107/63(78) - 155/95(113)} mmHg
   RR: 22 (22 - 33) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
             8,644 mL
   PO:
             TF:
   IVF:
   2,404 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,845 mL
   Urine:
   845 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  6,799 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 511 (511 - 511) mL
   PS : 5 cmH2O
   RR (Set): 30
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 67
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.36/30/143/14/-6
   Ve: 12 L/min
   PaO2 / FiO2: 358
   Physical Examination
   Not responding to verbal or physical stimuli
   Right subclavian and Right art-line in place; no evidence of infection
   MMM, intubated; Pupils equal
   S1, S2, tachycardic, no murmur
   Lungs clear b/l
   Abdomen obese, soft, not tender
   Ext without edema; DP +2 b/l
   Labs / Radiology
   258 K/uL
   11.2 g/dL
   159 mg/dL
   0.6 mg/dL
   14 mEq/L
   2.9 mEq/L
   7 mg/dL
   116 mEq/L
   143 mEq/L
   31.9 %
   10.7 K/uL
        [image002.jpg]
                             [**2177-1-5**]  12:59 AM
                             [**2177-1-5**]  01:08 AM
                             [**2177-1-5**]  05:05 AM
                             [**2177-1-5**]  05:30 AM
   WBC
   13.2
   10.7
   Hct
   35.2
   31.9
   Plt
   277
   258
   Cr
   0.7
   0.6
   TCO2
   13
   18
   Glucose
   144
   159
   Other labs: PT / PTT / INR:12.5/27.6/1.1, ALT / AST:20/25, Alk Phos / T
   Bili:126/0.2, Amylase / Lipase:44/40, Differential-Neuts:84.2 %,
   Band:Units: %
   Range: 0-5 %, Lymph:6.2 %, Mono:7.8 %, Eos:1.2 %, Lactic Acid:1.3
   mmol/L, Albumin:2.7 g/dL, LDH:179 IU/L, Ca++:8.7 mg/dL, Mg++:1.6 mg/dL,
   PO4:0.6 mg/dL
   Assessment and Plan
   26yo woman with back abscess and first episode of DKA.
 DIABETIC KETOACIDOSIS (DKA)
   Thought to be due to back abscess in setting of new diagnosis of
   diabetes.  Intra-abdominal process, ischemia less likely.
   -          anion gap now closed
   -          continue insulin gtt and D5 1/2NS while patient is NPO
   -          after extubating, assess patient
s ability to take POs and
   advance diet gently
   -          once eating, would start subcutaneous long-acting insulin
   and then stop insulin gtt 2 hours later
   -          would continue D5 1/2NS at 200cc/hr given persistent
   tachycardia
   -          monitor Q1H FS while on insulin gtt
   -          monitor lytes Q4H and replete K and phos as needed
   -          appreciate [**Last Name (un) 276**] consult
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Excellent RSBI this AM; anticipate that patient will no longer need
   ventilatory support given that her underlying process (extreme
   metabolic acidosis) is improving.
   -          continue to wean sedation and aim for extubation today if
   doing well
 WOUND INFECTION:
   -          f/u wound Cx from here and from OSH
   -          f/u imaging of upper back to confirm no gas in soft tissues
   -          appreciate surgery recommendations
   -          treating empirically with unasyn and vanc for broad coverage
   -          follow blood cultures
 LIVER FUNCTION ABNORMALITIES:  resolved; most likely from DKA
   -          monitor abdominal exam as sedation is weaned
   -          defer CT abdomen and pelvis unless patient clinically
   worsens or has pain on abdominal exam
 HYPOTHYROIDISM:
   -          continue levoxyl
   -      check TSH given tachycardia
   ICU Care
   Nutrition: NPO
   Glycemic Control:  insulin infusion
   Lines:
   Multi Lumen - [**2177-1-4**] 10:00 PM
   Arterial Line - [**2177-1-5**] 12:44 AM
   Prophylaxis:
   DVT: subQ heparin
   Stress ulcer: H2 blocker
   VAP:  HOB>30, mouth care, daily awakenings/RSBI
   Communication:  Comments: Will meet with husband today; needs ICU
   consent
   Code status: Full code
   Disposition: ICU

2177-01-05 09:32:00 Physician Attending Progress Note
Chief Complaint: DKA
   HPI:
   Anion gap closing, improved pH on mechanical ventilation, surgery saw
   her and felt I & D at OSH was adequate.
   24 Hour Events:
 MULTI LUMEN - START [**2177-1-4**] 10:00 PM
 ARTERIAL LINE - START [**2177-1-5**] 12:44 AM
 WOUND CULTURE - At [**2177-1-5**] 04:00 AM
 BLOOD CULTURED - At [**2177-1-5**] 05:26 AM
   from A-line
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2177-1-5**] 04:00 AM
   Infusions:
   Insulin - Regular - 15 units/hour
   Other ICU medications:
   Other medications:
   VANCOMYCIN, Famotidine, Propofol, SQ Heparin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Endocrine: Hyperglycemia
   Flowsheet Data as of  [**2177-1-5**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.3
C (99.2
   HR: 121 (112 - 140) bpm
   BP: 132/95(106){107/63(78) - 155/95(113)} mmHg
   RR: 23 (22 - 33) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
             9,331 mL
   PO:
             TF:
   IVF:
   2,971 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,965 mL
   Urine:
   965 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  7,366 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 537 (511 - 537) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 67
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.36/30/143/14/-6
   Ve: 12 L/min
   PaO2 / FiO2: 358
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.2 g/dL
   258 K/uL
   159 mg/dL
   0.6 mg/dL
   14 mEq/L
   2.9 mEq/L
   7 mg/dL
   116 mEq/L
   143 mEq/L
   31.9 %
   10.7 K/uL
        [image002.jpg]
                             [**2177-1-5**]  12:59 AM
                             [**2177-1-5**]  01:08 AM
                             [**2177-1-5**]  05:05 AM
                             [**2177-1-5**]  05:30 AM
   WBC
   13.2
   10.7
   Hct
   35.2
   31.9
   Plt
   277
   258
   Cr
   0.7
   0.6
   TCO2
   13
   18
   Glucose
   144
   159
   Other labs: PT / PTT / INR:12.5/27.6/1.1, ALT / AST:20/25, Alk Phos / T
   Bili:126/0.2, Amylase / Lipase:44/40, Differential-Neuts:84.2 %,
   Band:Units: %
   Range: 0-5 %, Lymph:6.2 %, Mono:7.8 %, Eos:1.2 %, Lactic Acid:1.3
   mmol/L, Albumin:2.7 g/dL, LDH:179 IU/L, Ca++:8.7 mg/dL, Mg++:1.6 mg/dL,
   PO4:0.6 mg/dL
   Assessment and Plan
 DIABETIC KETOACIDOSIS (DKA): CZI drip for now. Q4 hour lytes. When
   she extubates  tolerates po's and then use long-acting insulin and
   overlap x 2 hours, [**Last Name (un) 276**] diabetes consult, follow electrolytes very
   closely; f/u cultures for possible infection in back/right shoulder
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): SBT and extubate if looks
   good, follow up blood gases, aggressive repletion of phos
 WOUND INFECTION: surgery following, plan for back CT to look for gas
 LIVER FUNCTION ABNORMALITIES: resolving, re-examine when off sedation
   and extubated, and likely will not need imaging
   ICU Care
   Nutrition:
   Glycemic Control:  insulin drip
   Lines: right SCL #2
   Multi Lumen - [**2177-1-4**] 10:00 PM
   Arterial Line - [**2177-1-5**] 12:44 AM
   20 Gauge - [**2177-1-5**] 08:00 AM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: h2 blocker
   VAP: HOb
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU for resp failure and insulin drip
   Total time spent: 40

2177-01-06 06:46:00 Physician Resident Progress Note
Chief Complaint: DKA
   24 Hour Events:
 EKG - At [**2177-1-5**] 10:06 AM
 ARTERIAL LINE - STOP [**2177-1-5**] 02:30 PM
   Extubated uneventfully
   Called OSH micro lab - wound cx c/w S. aureus sensitivities pending
   Started taking sips by evening, gap closed
   Seen by [**Name (NI) 276**]
unclear what type of DM she has, sending antibody
   studies
   Subjective:  Denies dyspnea.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2177-1-5**] 01:28 PM
   Vancomycin - [**2177-1-5**] 08:00 PM
   Ampicillin - [**2177-1-6**] 06:29 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2177-1-5**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2177-1-5**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Reports that wound on back started as a
pimple
 that she scratched.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-1-6**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.1
C (98.7
   HR: 112 (112 - 127) bpm
   BP: 109/76(84){101/56(67) - 139/89(98)} mmHg
   RR: 21 (21 - 31) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                 14,866 mL
                                                                  2,395 mL
   PO:
                                                                    780 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  7,606 mL
                                                                  1,915 mL
   Blood products:
   Total out:
                                                                  6,315 mL
                                                                  2,115 mL
   Urine:
                                                                  5,315 mL
                                                                  2,115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,551 mL
                                                                    280 mL
   Respiratory support
   O2 Delivery Device: None
   Vt (Spontaneous): 537 (537 - 537) mL
   SpO2: 94%
   ABG: ///20/
   Ve: 13 L/min
   Physical Examination
   Awake, oriented, pleasant.
   Right subclavian line
   MMM
   S1, S2, tachy but regular, no murmur
   Lungs with decreased BS secondary to body habitus
   Minimal erythema, no fluctuance at site of wound on upper back.
   Abdomen +BS, soft, NT, ND
   Ext without edema; DP +2 b/l
   Labs / Radiology
   255 K/uL
   11.2 g/dL
   86 mg/dL
   0.5 mg/dL
   20 mEq/L
   3.4 mEq/L
   2 mg/dL
   113 mEq/L
   140 mEq/L
   32.6 %
   9.7 K/uL
        [image002.jpg]
   Wound Cx: from OSH, Staph aureus
   From [**1-4**]:  Gram pos cocci
   Blood cx pending
   CXR [**1-5**]:
   Ill-define opacities in the upper lobes greater on the right side are n
   ew,
   worrisome for aspiration.
   CT Chest [**1-5**]:
   There are multifocal areas of consolidation involving the upper and low
   er lung
   fields of both lungs posteriorly.  Outside these areas of consolidation
   , there
   are a few sub-6-mm foci of attenuation that are well-circumscribed and
   might
   represent additional infectious foci at the right apex. I
   Although this exam was not performed for subdiaphragmatic diagnosis, th
   e
   liver, spleen, kidneys, and adrenal glands are grossly unremarkable.  T
   he
   pancreas is unremarkable without evidence of calcifications.
   In the subcutaneous tissues of the midline right upper back, there is a
   n 2.8 x
   2 x 2.3 cm defect with packing material noted inside. There is no evide
   nce of
   subcutaneous air tracking away from this region to suggest necrotizing
   fasciitis, though there is a mild amount of soft tissue stranding surro
   unding
   this area. 6 mm subcutaneous nodule (3:21) in the left upper back [**First Name9 (NamePattern2) 828**]
   [**Last Name (un) 829**]
   represents a lymph node
                             [**2177-1-5**]  12:59 AM
                             [**2177-1-5**]  01:08 AM
                             [**2177-1-5**]  05:05 AM
                             [**2177-1-5**]  05:30 AM
                             [**2177-1-5**]  08:58 AM
                             [**2177-1-5**]  02:14 PM
                             [**2177-1-5**]  04:51 PM
                             [**2177-1-5**]  10:00 PM
                             [**2177-1-6**]  04:46 AM
   WBC
   13.2
   10.7
   9.7
   Hct
   35.2
   31.9
   32.6
   Plt
   277
   258
   255
   Cr
   0.7
   0.6
   0.6
   0.5
   0.5
   0.6
   0.5
   TropT
   0.02
   TCO2
   13
   18
   Glucose
   144
   159
   139
   63
   74
   99
   86
   Other labs: PT / PTT / INR:12.2/26.1/1.0, CK / CKMB /
   Troponin-T:91/5/0.02, ALT / AST:18/21, Alk Phos / T Bili:126/0.2,
   Amylase / Lipase:21/20, Differential-Neuts:84.2 %, Band:Units: %
   Range: 0-5 %, Lymph:6.2 %, Mono:7.8 %, Eos:1.2 %, Lactic Acid:1.3
   mmol/L, Albumin:2.5 g/dL, LDH:170 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL,
   PO4:1.6 mg/dL
   Assessment and Plan
   26yo woman with new diabetes admitted in DKA.
 DIABETIC KETOACIDOSIS (DKA)
   Due to new diagnosis of diabetes and right upper back abscess.  Unclear
   if patient is Type 1, 2, or possibly Flatbush diabetic.
   -          anion gap closed
   -          advancing diet as tolerated
   -          started on subQ insulin
   -          monitor QID finger sticks
   -          stopping D5; if pt needs fluids, would give LR
   -          [**Last Name (un) 276**] consult appreciated
 WOUND INFECTION:
   -          growing staph aureus from OSH; will f/u sensitivities as
   well as cultures from [**Hospital1 54**]
   -          appreciate surgery input
   -          I&D
d at outside hospital; no evidence for further fluid
   collection that needs draining; no evidence of gas on CT chest
   -          Continue coverage with unasyn and vanc until sensitivities
   back; would switch to nafcillin if MSSA
   -          Continue [**Hospital1 **] dressing changes per surgery recs; patient
   apparently with significant drainage; may require more frequent
   dressing changes
   -          f/u blood cultures
   # Tachycardia:
   -          continues to have sinus tachycardia despite volume
   resuscitation
   -          may still be volume low given immense need for fluids in
   patient with DKA, but would start to consider other possibilities
   (pain, infection) if pt does not respond to fluid challenge this AM
   -          if still tachycardic this afternoon, would check CXR, UA
   -          TSH normal
   # Infiltrates on CXR/CT Chest:
   -          patient is at risk for aspiration pneumonia given intubation
   at OSH
   -          currently afebrile without significant cough, but would have
   a low threshold for considering pneumonia
   -          check sputum Cx
   # Elevated LFTs:
   -          resolved, abdominal exam unremarkable
 HYPOTHYROIDISM:
   -          continue levoxyl; TSH normal
   ICU Care
   Nutrition:
   Comments: diabetic diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2177-1-4**] 10:00 PM
   20 Gauge - [**2177-1-5**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2177-01-06 14:13:00 Physician Attending Progress Note
Chief Complaint: DKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2177-1-5**] 10:06 AM
 ARTERIAL LINE - STOP [**2177-1-5**] 02:30 PM
   Extubated.
   Anion gap closed.
   Eating.
   Denies pain at present.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2177-1-5**] 01:28 PM
   Vancomycin - [**2177-1-5**] 08:00 PM
   Ampicillin - [**2177-1-6**] 11:26 AM
   Infusions:
   Other ICU medications:
   Other medications:
   H2B, neutraphos, potassium, insulin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: No(t) Abdominal pain; Nausea, which is improved
   Endocrine: Hyperglycemia
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2177-1-6**] 02:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.9
   HR: 116 (112 - 127) bpm
   BP: 112/85(91) {97/56(67) - 139/89(98)} mmHg
   RR: 18 (18 - 36) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                 14,866 mL
                                                                  4,819 mL
   PO:
                                                                    780 mL
                                                                    840 mL
   TF:
   IVF:
                                                                  7,606 mL
                                                                  3,979 mL
   Blood products:
   Total out:
                                                                  6,315 mL
                                                                  3,470 mL
   Urine:
                                                                  5,315 mL
                                                                  3,470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,551 mL
                                                                  1,349 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///19/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, No(t)
   Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   breath sounds are quite distant
   Abdominal: Soft, No(t) Tender: , Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   11.2 g/dL
   255 K/uL
   287 mg/dL
   0.5 mg/dL
   19 mEq/L
   3.4 mEq/L
   2 mg/dL
   111 mEq/L
   140 mEq/L
   32.6 %
   9.7 K/uL
        [image002.jpg]
                             [**2177-1-5**]  12:59 AM
                             [**2177-1-5**]  01:08 AM
                             [**2177-1-5**]  05:05 AM
                             [**2177-1-5**]  05:30 AM
                             [**2177-1-5**]  08:58 AM
                             [**2177-1-5**]  02:14 PM
                             [**2177-1-5**]  04:51 PM
                             [**2177-1-5**]  10:00 PM
                             [**2177-1-6**]  04:46 AM
                             [**2177-1-6**]  09:10 AM
   WBC
   13.2
   10.7
   9.7
   Hct
   35.2
   31.9
   32.6
   Plt
   277
   258
   255
   Cr
   0.7
   0.6
   0.6
   0.5
   0.5
   0.6
   0.5
   0.5
   TropT
   0.02
   TCO2
   13
   18
   Glucose
   144
   159
   139
   63
   74
   99
   86
   287
   Other labs: PT / PTT / INR:12.2/26.1/1.0, CK / CKMB /
   Troponin-T:91/5/0.02, ALT / AST:18/21, Alk Phos / T Bili:126/0.2,
   Amylase / Lipase:21/20, Differential-Neuts:84.2 %, Band:Units: %
   Range: 0-5 %, Lymph:6.2 %, Mono:7.8 %, Eos:1.2 %, Lactic Acid:1.3
   mmol/L, Albumin:2.5 g/dL, LDH:170 IU/L, Ca++:8.0 mg/dL, Mg++:1.5 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
   26-year-old woman admitted with very severe DKA (nadir pH 6.79)
   requiring intubation due to acidosis.  She has now improved
   significantly, is extubated, and is eating.
 DIABETIC KETOACIDOSIS (DKA)
   Appreciate [**Last Name (un) 833**] help with management of her subcutaneous insulin
   regimen.
 NECK ABSCESS / WOUND INFECTION
   Currently on appropriate antibiotics.  Follow up sensitivities, and
   discuss with surgery about potentially narrowing coverage.  At present,
   there is no evidence of undrained deep infection.
 HYPOTHYROIDISM
   We have checked TSH to exclude iatrogenic hyperthyroidism.
 TACHYCARDIA
   This is most likely to be related to hypovolemia.  We will attempt
   significant volume challenge.  If there is no response then we will
   need to assess for other etiologies.
 ATELECTASIS VS. PNEUMONIA
   At present, there is no clear evidence for pneumonia, although her CT
   shows dependent pulmonary opacities.  If she has fever, bandemia,
   leucocytosis, etc., would then treat broadly.
   ICU Care
   Nutrition: oral diet
   Glycemic Control:  Comments: Insulin as [**First Name8 (NamePattern2) **] [**Last Name (un) 276**]
   Lines:
   Multi Lumen - [**2177-1-4**] 10:00 PM
   20 Gauge - [**2177-1-5**] 08:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU for now; potentially to floor if tachycardia resolves
   and remains off insulin gtt
   Total time spent: 40 minutes

2177-01-07 06:32:00 Physician Resident Progress Note
Chief Complaint: DKA
   24 Hour Events:
   OSH micro lab - wound cx MSSA, started on nafcillin
   tachycardia was fluid responsive so got additional 2L LR overnight
   nauseated, got zofran
   Subjective:
   Feeling okay, somewhat nauseated but has not vomited.
   Poor appetite
   Does not feel heart racing
   Still with a bit of a cough, but not bringing up phlegm
   Using her IS
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2177-1-5**] 01:28 PM
   Vancomycin - [**2177-1-5**] 08:00 PM
   Ampicillin - [**2177-1-6**] 11:26 AM
   Nafcillin - [**2177-1-7**] 06:18 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2177-1-6**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2177-1-7**] 12:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-1-7**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 103 (103 - 126) bpm
   BP: 116/65(76){97/59(68) - 126/92(96)} mmHg
   RR: 19 (18 - 36) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  5,102 mL
                                                                  2,298 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                  4,262 mL
                                                                  2,298 mL
   Blood products:
   Total out:
                                                                  4,690 mL
                                                                    740 mL
   Urine:
                                                                  4,690 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    412 mL
                                                                  1,558 mL
   Respiratory support
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   Awake, oriented
   Right subclavian in place
   MMM, OP clear
   S1, S2, tachy, no murmur
   Lungs clear b/l
   Back wound with packing, no fluctuance, minor erythema
   Abd soft, NT, ND
   Ext without edema; DP +2 b/l
   Labs / Radiology
   255 K/uL
   11.2 g/dL
   204 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.5 mEq/L
   3 mg/dL
   112 mEq/L
   142 mEq/L
   32.6 %
   9.7 K/uL
        [image002.jpg]
                             [**2177-1-5**]  01:08 AM
                             [**2177-1-5**]  05:05 AM
                             [**2177-1-5**]  05:30 AM
                             [**2177-1-5**]  08:58 AM
                             [**2177-1-5**]  02:14 PM
                             [**2177-1-5**]  04:51 PM
                             [**2177-1-5**]  10:00 PM
                             [**2177-1-6**]  04:46 AM
                             [**2177-1-6**]  09:10 AM
                             [**2177-1-6**]  05:59 PM
   WBC
   10.7
   9.7
   Hct
   31.9
   32.6
   Plt
   258
   255
   Cr
   0.6
   0.6
   0.5
   0.5
   0.6
   0.5
   0.5
   0.5
   TropT
   0.02
   TCO2
   13
   18
   Glucose
   159
   139
   63
   74
   99
   86
   287
   204
   Other labs: PT / PTT / INR:12.2/26.1/1.0, CK / CKMB /
   Troponin-T:91/5/0.02, ALT / AST:18/21, Alk Phos / T Bili:126/0.2,
   Amylase / Lipase:21/20, Differential-Neuts:84.2 %, Band:Units: %
   Range: 0-5 %, Lymph:6.2 %, Mono:7.8 %, Eos:1.2 %, Lactic Acid:1.3
   mmol/L, Albumin:2.5 g/dL, LDH:170 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL,
   PO4:1.8 mg/dL
   Wound Cx:
WOUND CULTURE (Preliminary):
         STAPH AUREUS COAG +.    MODERATE GROWTH.
   BCx NGTD
   Assessment and Plan
   26yo woman admitted with DKA.
 DIABETIC KETOACIDOSIS (DKA)
   -          gap resolved, off insulin gtt x 24 hours
   -          poor appetite, but eating
   -          BS in 200s yesterday; will increase meal-time insulin to 8
   units
   -          Most likely has Type 2 DM (?Flatbush), though still
   difficult to tell
   -          Appreciate [**Last Name (un) 276**] input
 WOUND INFECTION:
   -          per OSH, Cx growing MSSA
   -          wound Cx from [**Hospital1 54**] + for Staph aureus, sensitivities
   pending
   -          continue nafcillin
   -          [**Hospital1 **] dressing changes
   -          f/u blood Cx (NGTD)
   -          appreciate surgery input
   # Tachycardia:
   -          slowly improving; TSH normal
   -          still no fever or worsening cough to indicate infection
   -          suspect was due to huge sympathetic outflow in setting of
   recent DKA; would monitor for resolution
   -          f/u sputum Cx given infiltrates on CT chest
   ICU Care
   Nutrition: diabetic diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2177-1-4**] 10:00 PM
will pull central line prior to floor
   transfer
   20 Gauge - [**2177-1-5**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   Communication:  Comments:
   Code status: Full code
   Disposition:transfer to floor